US06426345B1
A mixture of 2-benzyl-4-[3-(4-methoxycarbonylphenyl)phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (150 mg) and lithium bromide (0.30 g) in N,N-dimethylformamide (3 ml) was stirred under reflux for 4 hours. The mixture was cooled and poured into dilute hydrochloric acid with stirring. The resultant precipitate was collected and washed with water to give 2-benzyl-4-[3-(4-carboxyphenyl)phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (119 mg).

reactant | 2-benzyl-4-[3-(4-methoxycarbonylphenyl)phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 150 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)C1=CC=C(C=C1)C(=O)OC)N=CC=C2 | C28H21N3O3
reactant | lithium bromide | 0.30 g | [Br-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-benzyl-4-[3-(4-carboxyphenyl)phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 119 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)C1=CC=C(C=C1)C(=O)O)N=CC=C2 | C27H19N3O3
